US04588733
To a stirred solution of 1.0 g of 2-(3,4-dichlorophenyl)-3,4-dihydro-6-(methylthio)-2H-pyrano[2,3-b]pyridine in 25 ml of methylene chloride at -25° C. there was added dropwise a solution of 0.55 g of 80-85% m-chloroperoxybenzoic acid in 20 ml of methylene chloride over 5-10 minutes while keeping the temperature between -20° and -30° C. A precipitate formed. The mixture was then allowed to warm to -5° C. over 2 hours and then extracted with aqueous saturated sodium bicarbonate solution, aqueous saturated sodium chloride solution, dried over sodium sulfate and concentrated under reduced pressure to leave a pale yellow solid. This was recrystallized from a mixture of ethyl acetate and hexane to give 2-(3,4-dichlorophenyl)-3,4-dihydro-6-(methylsulfinyl)-2H-pyrano[2,3-b]pyridine as a cream-colored solid melting at about 159°-162° C.

reactant | 2-(3,4-dichlorophenyl)-3,4-dihydro-6-(methylthio)-2H-pyrano[2,3-b]pyridine | 1.0 g | ClC=1C=C(C=CC1Cl)C1CCC=2C(=NC=C(C2)SC)O1 | C15H13Cl2NOS
reactant | m-chloroperoxybenzoic acid | 0.55 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-(3,4-dichlorophenyl)-3,4-dihydro-6-(methylsulfinyl)-2H-pyrano[2,3-b]pyridine | ClC=1C=C(C=CC1Cl)C1CCC=2C(=NC=C(C2)S(=O)C)O1 | C15H13Cl2NO2S
